Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])=[C:9][H:10],5.13188427085
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.14883957666
[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.797127650969999
[O:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:11][H:12],0.278783839466
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.5994352104299998
[C:5]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-1.5619968011
[H:1][C:2](=[O:3])[C@:5]([O:4])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]1[O:3][O:4][C@@:5]1([H:6])[C:7]([H:8])([H:9])[H:10],2.71602853646
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.6220239866
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7][H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7].[H:8],3.87944716226
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11],8.60256766466
[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[O:1]([C:2][C:3]([H:7])([H:8])[H:9])[H:5].[O:4]=[C:6],1.8838460616
[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],4.74487871981
[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]#[C:7][H:8]>>[C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][H:8].[O:1],7.312813930630001
[H:13].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.66302850809
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1],3.96695366008
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:8],1.40736643444
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11],5.28138306986
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:9][H:10].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8],10.6065296265
[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.89646891917
[H:1][C:2]([H:3])[C@:4]12[O:5][C@:6]1([C:7]([H:8])([H:9])[H:10])[O:11]2>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([C:7]([H:8])([H:9])[H:10])=[O:11],-0.279441929559
[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.874789765380002
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10],1.78216937157
[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:3].[O:1]=[C:2][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],4.05523978127
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.5366981467800005
[O:1]=[C:2]([H:3])[C:10]([H:11])([H:12])[H:13].[O:4]=[C:5]([H:6])[C:7]([H:8])[H:9]>>[O:1][C@:2]([H:3])([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.21410405449
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],6.45754718529
[H:3].[O:1]=[C:2]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.02200117749
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9].[O:1]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-7.116910159289999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[O:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],0.769553446439
